US07521579B2
5-(4-Chlorophenyl)-2,2-dimethyl-1,3-dioxolan-4-one (5.67 g; 25 mmol) and 4-(2-aminoethyl)-2-methoxyphenol (4.39 g; 26.25 mmol) are dissolved in 31.25 g of dry dioxane. The mixture is heated to reflux (+100° C.) and the solution is stirred for 7 hours at reflux temperature. The solvent is removed in vacuum and to the residue 20 g of a 1:1 mixture of ethyl acetate and hexane is added at +70° C. whereupon a precipitate is formed. After cooling, filtering and washing the product is dried in vacuum. 7.44 g of 2-(4-chlorophenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxyphenyl)-ethyl]-acetamide with a purity of 91.0% is obtained in 80.6% yield.

reactant | 5-(4-Chlorophenyl)-2,2-dimethyl-1,3-dioxolan-4-one | 25 mmol, 5.67 g | ClC1=CC=C(C=C1)C1C(OC(O1)(C)C)=O | C11H11ClO3
reactant | 4-(2-aminoethyl)-2-methoxyphenol | 26.25 mmol, 4.39 g | NCCC1=CC(=C(C=C1)O)OC | C9H13NO2
solvent | dioxane | 31.25 g | O1CCOCC1 | C4H8O2
product | 2-(4-chlorophenyl)-2-hydroxy-N-[2-(4-hydroxy-3-methoxyphenyl)-ethyl]-acetamide | 7.44 g, 80.6% yield | ClC1=CC=C(C=C1)C(C(=O)NCCC1=CC(=C(C=C1)O)OC)O | C17H18ClNO4
